US07501425B1
7-{4-[4-(Dimethylamino)piperidin-1-yl]phenylamino}-1-isopropyl-pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 200 mg (0.31 mmol) of 7-{4-[4-(dimethylamino)piperidin-1-yl]phenylamino}-1-isopropyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, trifluoroacetic acid and 211 mg (1.88 mmol) of potassium tert-butoxide in 7 mL of tetrahydrofuran. The reaction mixture is stirred for 48 hours, and the workup is done as described in the general procedure, then the reaction is repeated for 72 hours. After the workup, the semi-solid is triturated in diethyl ether, and the powder is collected and dried to give 24 mg (18%) of the title compound:

reactant | 7-{4-[4-(dimethylamino)piperidin-1-yl]phenylamino}-1-isopropyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.31 mmol, 200 mg | CN(C1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C2C(=N1)N(C(NC2)=O)C(C)C)C | C22H31N7O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium tert-butoxide | 1.88 mmol, 211 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 7-{4-[4-(Dimethylamino)piperidin-1-yl]phenylamino}-1-isopropyl-pyrimido[4,5-d]pyrimidin-2(1H)-one | 24 mg, 18% | CN(C1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C2C(=N1)N(C(N=C2)=O)C(C)C)C | C22H29N7O
